US07960369B2
methyl 4-[(2,3-dihydro-1H-inden-1-yl)oxy]-3,5-difluorobenzenepropanoate
To a mixture of methyl (E)-3-[4-[(2,3-dihydro-1H-inden-1-yl) oxy]-3,5-difluorophenyl]-2-propenoate (0.52 g, 1.6 mmol), samarium (1.2 g, 7.9 mmol), tetrahydrofuran (3 mL) and methanol (7 mL) was added iodine (0.80 g, 3.2 mmol), and the mixture was stirred overnight at room temperature. 1N Hydrochloric acid (20 mL) was added and the mixture was stirred for 20 min. The mixture was diluted with water, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10:1) to give the title compound. yield 60%, oil.

reactant | methyl (E)-3-[4-[(2,3-dihydro-1H-inden-1-yl) oxy]-3,5-difluorophenyl]-2-propenoate | 1.6 mmol, 0.52 g | C1(CCC2=CC=CC=C12)OC1=C(C=C(C=C1F)/C=C/C(=O)OC)F | C19H16F2O3
reactant | samarium | 7.9 mmol, 1.2 g | [Sm] | Sm
reactant | iodine | 3.2 mmol, 0.80 g | II | I2
reactant | Hydrochloric acid | 1N, 20 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 7 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | methyl 4-[(2,3-dihydro-1H-inden-1-yl)oxy]-3,5-difluorobenzenepropanoate | yield 60% | C1(CCC2=CC=CC=C12)OC1=C(C=C(C=C1F)CCC(=O)OC)F | C19H18F2O3
